US04623639
2.72 g (0.005 mol) of Nα -tert.butoxycarbonyl-Nε -benzyloxycarbonyl-L-lysyl-L-proline isobutylamide were treated with 15 ml of 2.5M hydrogen chloride in ethyl acetate at room temperature for 0.75 hour. The solvent was removed by evaporation and the solid was washed with diethyl ether. The solid was taken up in 15 ml of dimethylformamide and the solution was cooled to 0° C. 1.27 ml (0.01 mol) of N-ethylmorpholine and 1.3 g (0.006 mol) of 1-adamantaneacetyl chloride were added and the mixture was stirred at room temperature for 3 hours. The solvent was removed by evaporation and the residue was dissolved in ethyl acetate/water. The organic solution was washed with 5% citric acid solution, water, 5% sodium bicarbonate solution and brine, dried over magnesium sulphate and evaporated. Chromatography on 60 g of silica gel using ethyl acetate for the elution yielded 0.9 g (29%) of Nα -(1-adamantaneacetyl)-Nε -benzyloxycarbonyl-L-lysyl-L-proline isobutylamide as an oil.

reactant | Nα -tert.butoxycarbonyl-Nε -benzyloxycarbonyl-L-lysyl-L-proline isobutylamide | 0.005 mol, 2.72 g | C(C(C)C)NC([C@H]1N(CCC1)C([C@@H](NC(=O)OC(C)(C)C)CCCCNC(=O)OCC1=CC=CC=C1)=O)=O | C28H44N4O6
reactant | hydrogen chloride | 2.5M, 15 ml | Cl | ClH
reactant | N-ethylmorpholine | 0.01 mol, 1.27 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-adamantaneacetyl chloride | 0.006 mol, 1.3 g | C12(CC3CC(CC(C1)C3)C2)CC(=O)Cl | C12H17ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Nα -(1-adamantaneacetyl)-Nε -benzyloxycarbonyl-L-lysyl-L-proline isobutylamide | 0.9 g, 29% | C(C(C)C)NC([C@H]1N(CCC1)C([C@@H](NC(CC12CC3CC(CC(C1)C3)C2)=O)CCCCNC(=O)OCC2=CC=CC=C2)=O)=O | C35H52N4O5
